US07947834B2
0.157 g of N,N-dimethyl-4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydroquinoxaline-1(2H)-carboxamide, dissolved in 8.1 ml of dichloromethane, is introduced into a 10 ml round-bottomed flask. 4.08 ml of a 0.1N solution of hydrochloric acid in ether are subsequently added. Stirring is maintained for ten minutes. After evaporating, 0.156 g of N,N-dimethyl-4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydroquinoxaline-1(2H)-carboxamide hydrochloride is obtained.

reactant | N,N-dimethyl-4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydroquinoxaline-1(2H)-carboxamide | 0.157 g | CN(C(=O)N1CCN(C2=CC=CC=C12)C(=O)N1CC(CC1)C=1C=NC=CC1)C | C21H25N5O2
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 8.1 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | N,N-dimethyl-4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydroquinoxaline-1(2H)-carboxamide hydrochloride | 0.156 g | Cl.CN(C(=O)N1CCN(C2=CC=CC=C12)C(=O)N1CC(CC1)C=1C=NC=CC1)C | InChI=1S/C21H25N5O2.ClH/c1-23(2)20(27)25-12-13-26(19-8-4-3-7-18(19)25)21(28)24-11-9-17(15-24)16-6-5-10-22-14-16;/h3-8,10,14,17H,9,11-13,15H2,1-2H3;1H
